Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Facial Fractures
 
Major Surgical or Invasive Procedure:
ORIF of right parasymphysis mandible fracture.

 
History of Present Illness:
___ transferred from ___ following a road rage altercation
last night (___). Patient reports that he was punched in the
face by ___ motorcyclists with possible LOC. He reports acute 
jaw
pain and inability to bite down. CT max/face is notable for
bilateral subcondylar fractures, a displaced right parasymphysis
fracture, non-displaced lateral wall of right maxillary sinus
fracture. He has no vision changes. Denies chest pain, shortness
of breath, abdominal pain, weakness, numbness, tingling. ___ is
planning operative management of fractures. ACS is consulted for
admission.
 
Past Medical History:
PMH:
-T2DM 
-HTN
-HLD
                             
PSH:
-Dental surgery only
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
Physical Exam: 
Vitals-98.3   89    156/92    16    100% RA 
GEN: NAD
HEENT: EOMI, MMM, left side of face swollen with less movement 
on
left side of face when speaking
CV: RRR
PULM: non-labored breathing, room air 
ABD: soft, NT/ND
EXT: WWP
NEURO: A&Ox3
PSYCH: appropriate mood, appropriate affect

Discharge Physical Exam:
HEENT:
  Head: atraumatic and normocephalic, slight abrasion to 
posterior head which is hemostatic, edema of the left midface.
  Eyes: EOM Intact, PERRL, vision grossly normal
  Ears: right ear normal, left ear normal, no external 
deformities and gross hearing intact
  Nose: straight nose, non-tender, no epistaxis
  EOE: no trismus, left midface soft tissue swelling, full range 
of motion of mandible
  TMJ: Pain left TMJ, pain right TMJ
  Neurology: cranial nerves II-XII grossly intact except for 
right V3 parasthesia
  Neck: normal range of motion, supple, no JVD, and no 
lymphadenopathy
  IOE: Mandibular anterior vestibular incision closed with 
sutures, hemostatic oropharynx clear, endorses dysphagia, FOM 
soft non-elevated, mandibular dentition grossly intact, 
maxillary arch  edentulous, uvula midline.

 
Pertinent Results:
___ 02:03AM BLOOD WBC-13.8* RBC-4.58* Hgb-13.9 Hct-41.1 
MCV-90 MCH-30.3 MCHC-33.8 RDW-12.3 RDWSD-40.2 Plt ___
___ 02:03AM BLOOD Neuts-89.6* Lymphs-6.9* Monos-3.0* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-12.38* AbsLymp-0.96* 
AbsMono-0.42 AbsEos-0.01* AbsBaso-0.02
___ 12:42AM BLOOD ___ PTT-23.5* ___
___ 12:42AM BLOOD Glucose-259* UreaN-16 Creat-1.1 Na-140 
K-5.1 Cl-98 HCO3-25 AnGap-17
___ 12:42AM BLOOD Calcium-9.6 Phos-3.8 Mg-1.9

___ Panorex:
FINDINGS:  
There is an oblique fracture to the right of the mandibular 
symphysis 
extending from right inferior to the incisor lower teeth.   
IMPRESSION:    
Mandibular fracture. 

___ CT Head:
1. No acute intracranial abnormalities. 
2. No acute fracture of the calvarium. 
3. Global atrophy, slightly out of proportion to the expected 
degree in this age group. 

___ Panorex:
FINDINGS:   
There has been interval ORIF with plate and screw fixation 
through an 
obliquely oriented fracture to the right of the mandibular 
symphysis.  
Additional fractures are noted at the base of the mandibular 
condyles 
bilaterally which is minimally displaced on the left, unchanged. 
  
IMPRESSION:    
Status post ORIF of a fracture to the right of the mandibular 
symphysis. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M with a history of hyperlipidemia, 
diabetes, as well as hypertension who presented after reportedly 
being assaulted. On initial imaging, the patient was noted to 
have bilateral subcondylar mandible fractures as well as a
right parasymphysis mandible fracture.  After discussion with 
the patient and reviewing the risks, complications, alternative 
procedures, it was decided to approach the right parasymphysis 
fracture through an open reduction and internal
fixation approach.  The patient's subcondylar fractures were 
decided to be managed in a nonoperative fashion.  The patient 
was advised to avoid chewing any diet for a period of at least 
two weeks or until being seeing at the followup appointment
for appropriate healing.  The patient's collar heads were also 
noted to be appropriately seated in the fossa on initial 
imaging, and it was decided that nonoperative management would 
be adequate for management of his subcondylar fractures. 
Informed consent was obtained and the patient was taken to the 
operating room with the ___ team. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a IV morphine 
and then transitioned to oral oxycodone and Tylenol once 
tolerating a diet. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO for operative 
intervention. On POD1 he was given a regular, non-chew diet 
which was well tolerated. Patient's intake and output were 
closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
-Metformin 500"  
-Glimepiride 2'  
-Lisinopril 10'  
-lovastatin 40'  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*24 Tablet Refills:*0 
3.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate [Peridex] 0.12 % Mouth rinse twice 
daily twice a day Refills:*0 
4.  Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
take lowest effective dose. Wean. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*36 Tablet Refills:*0 
6.  Atorvastatin 40 mg PO QPM  
7.  glimepiride 2 mg oral DAILY  
8.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Parasymphysis mandible fracture, bilateral subcondylar 
mandible fractures.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ and 
underwent surgery on your mandible. You are recovering well and 
are now ready for discharge. Please follow the instructions 
below to continue your recovery:

Wound care: Do not disturb or probe the surgical area with any 
objects. The sutures placed in your mouth are usually the type 
that self dissolve. If you have any sutures on the skin of your 
face or neck, your surgeon will remove them on the day of your 
first follow up appointment. SMOKING is detrimental to healing 
and will cause complications.

 Bleeding: Intermittent bleeding or oozing overnight is normal. 
Placing fresh gauze over the area and biting on the gauze for 
___ minutes at a time may control the bleeding. Bleeding 
should never be severe. If bleeding persists or is severe or 
uncontrollable, please call our office immediately. If it is 
after normal business hours, please come to the emergency room 
and request that the oral surgery resident on call be paged.

 Healing: Normal healing after oral surgery should be as 
follows: the first ___ days after surgery, are generally the 
most uncomfortable and there is usually significant swelling. 
After the first week, you should be more comfortable. The 
remainder of your postoperative course should be gradual, steady 
improvement. If you do not see continued improvement, please 
call our office.

 Physical activity: It is recommended that you not perform any 
strenuous physical activity for a few weeks after surgery. Do 
not lift any heavy loads and avoid physical sports unless you 
obtain permission from your surgeon.

 Swelling & Ice applications: Swelling is often associated with 
surgery. Swelling can be minimized by using a cold pack, ice bag 
or a bag of frozen peas wrapped in a towel, with firm 
application to face and neck areas. This should be applied 20 
minutes on and 20 minutes off during the first ___ days after 
surgery. 

 Hot applications: Starting on the ___ or ___ day after surgery, 
you may apply warm compresses to the skin over the areas of 
swelling (hot water bottle wrapped in a towel, etc), for 20 
minutes on and 20 min off to help soothe tender areas and help 
to decrease swelling and stiffness. Please use caution when 
applying ice or heat to your face as certain areas may feel numb 
after surgery and extremes of temperature may cause serious 
damage.

 Tooth brushing: Begin your normal oral hygiene the day after 
surgery. Soreness and swelling may not permit vigorous brushing, 
but please make every effort to clean your teeth with the bounds 
of comfort. Any toothpaste is acceptable. Please remember that 
your gums may be numb after surgery. To avoid injury to the gums 
during brushing, use a child size toothbrush and brush in front 
of a mirror staying only on teeth.

 Mouth rinses: Keeping your mouth clean after surgery is 
essential. Use 1 teaspoon of salt dissolved in an 8 ounce glass 
of warm water and gently rinse with portions of the solution, 
taking 5 min to use the entire glassful. Repeat as often as you 
like, but you should do this at least 4 times each day. If your 
surgeon has prescribed a specific rinse, use as directed.

 Sleeping: Please keep your head elevated while sleeping. This 
will minimize swelling and discomfort and reduce pain while 
allowing you to breathe more easily. 

 Pain: Most facial and jaw reconstructive surgery is accompanied 
by some degree of discomfort. You will usually have a 
prescription for pain medication. Some patients find that 
stronger pain medications cause nausea, but if you precede each 
pain pill with a small amount of food, chances of nausea will be 
reduced. The effects of pain medications vary widely among 
individuals. If you do not achieve adequate pain relief at first 
you may supplement each pain pill with an analgesic such as 
Tylenol or Motrin. If you find that you are taking large amounts 
of pain medications at frequent intervals, please call our 
office.

 Diet: Unless otherwise instructed, only a cool, clear liquid 
diet is allowed for the first 24 hours after surgery. After 48 
hours, you can increase to a full liquid diet, but please check 
with your doctor before doing this. Avoid extreme hot and cold. 
After one week, you may be able to gradually progress to a soft 
diet, but ONLY if your surgeon instructs you to do so. It is 
important not to skip any meals. If you take nourishment 
regularly you will feel better, gain strength, have less 
discomfort and heal faster. Over the counter meal supplements 
are helpful to support nutritional needs in the first few days 
after surgery. 

 Medications: You will be given prescriptions, some of which may 
include antibiotics, oral rinses, decongestants, nasal sprays 
and pain medications. Use them as directed.  If you have any 
questions about your progress, please call ___ at 
___ or ___ or call the page operator at ___ 
___ and have them page the on call Oral & 
Maxillofacial Surgery resident.
 
Followup Instructions:
___